US20010047114A1
From the literature, processes are already known for the production of 10-chloro-phenoxaphosphines. Freedman et al describes in J. Organ. Chem. 1961, Vol 26, 284 the conversion of p-tolyl ether with phosphorus trichloride and aluminum trichloride. After the aqueous processing, the reaction product was identified as 2,8-dimethyl-phenoxaphosphinic acid. The 2,8-dimethyl-phenoxaphosphinic acid can be converted analogously to the teaching of Hellwinkel and Krapp in Chem. Ber. 1978, Vol 111, 13 for dibenzophosphoric acid by reaction with phosphorus oxychloride at 200° C. and subsequent reaction with red phosphorus at 180° C. to form 10-chloro-2,8-dimethylphenoxaphosphine. The synthesis from ether is thus a three-stage synthesis and the total yield is 59.6% over all stages. Thus, an economical production of the compound is not possible.

reactant | p-tolyl ether | C1(=CC=C(C=C1)OC1=CC=C(C=C1)C)C | C14H14O
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | aluminum trichloride | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 2,8-dimethyl-phenoxaphosphinic acid | CC1=C(C=2PC3=CC(=CC=C3OC2C=C1)C)C(=O)O | C15H13O3P
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 10-chloro-2,8-dimethylphenoxaphosphine | yield is 59.6% | ClP1C2=CC(=CC=C2OC=2C=CC(=CC12)C)C | C14H12ClOP
